US04731382
To a stirred suspension of 18 gms AlCl3 (0.135 mole) in 150 ml dry benzene was added 13 gms 1,10-decanedicarboxylic anhydride in small portions over 15 minutes, then the mixture was refluxed for 6 hours. The solid was filtered off, stirred for 2.5 hours in 350 ml 2N HCl, removed by filtration, and stirred in 300 ml 1N NaOH was then heated to 70° and filtered hot. As the solution cooled, solid material (sodium salt of the product) crystallized out. This salt was dissolved in hot water, acidified to pH 3 with concentrated HCl, filtered after cooling, and dried to give 5.5 gm of the desired 11-benzoylundecanoic acid m.p. 83°-6°.

reactant | AlCl3 | 0.135 mole, 18 gms | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 1,10-decanedicarboxylic anhydride | 13 gms | C1CCCCCCCCCC(=O)OC1=O | C12H20O3
reactant | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 11-benzoylundecanoic acid | 5.5 gm | C(C1=CC=CC=C1)(=O)CCCCCCCCCCC(=O)O | C18H26O3
